US04558038
An ethanolic solution of ethyl N-carbobenzyloxy-L-isoleucyl-N-(3-pyridyl)glycinate was treated with potassium hydroxide to yield N-carbobenzyloxy-L-isoleucyl-N-(3-pyridyl)glycine.

reactant | ethyl N-carbobenzyloxy-L-isoleucyl-N-(3-pyridyl)glycinate | C(=O)(OCC1=CC=CC=C1)N[C@@H]([C@@H](C)CC)C(=O)N(CC(=O)OCC)C=1C=NC=CC1 | C23H29N3O5
reactant | potassium hydroxide | [OH-].[K+]
product | N-carbobenzyloxy-L-isoleucyl-N-(3-pyridyl)glycine | C(=O)(OCC1=CC=CC=C1)N[C@@H]([C@@H](C)CC)C(=O)N(CC(=O)O)C=1C=NC=CC1 | C21H25N3O5
